US05238600
A mixture of 0.5 g of 4-(5-nonyl-2-pyrimidinyl)phenol, 0.55 g of 3-(trans-4-pentylcyclohexyl)-1-propyl bromide, 0.91 g of potassium carbonate and 50 ml of absolute butanone was heated under reflux overnight. Subsequently, the cooled reaction mixture was poured into water and extracted three times with 50 ml of diethyl ether each time. The combined organic phases were washed with 500 ml of water, dried over magnesium sulfate, filtered and concentrated. Chromatography of the residue on silica gel with toluene and recrystallization from ethanol gave pure 2-(4-[3-(trans-4-pentylcyclohexyl)-1-propyloxy]phenyl-5-nonylpyrimidine with m.p. (C--SC) 83° C., transition SC --N 103° C., cl.p. (N-I) 133° C.

reactant | 4-(5-nonyl-2-pyrimidinyl)phenol | 0.5 g | C(CCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C19H26N2O
reactant | 3-(trans-4-pentylcyclohexyl)-1-propyl bromide | 0.55 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCCBr | C14H27Br
reactant | potassium carbonate | 0.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | butanone | 50 ml | CC(CC)=O | C4H8O
solvent | water | O | H2O
product | 4-[3-(trans-4-pentylcyclohexyl)-1-propyloxy]phenyl-5-nonylpyrimidine | C(CCCC)[C@@H]1CC[C@H](CC1)CCCOC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCC | C33H52N2O
